US05935952
In 1 ml of toluene was suspended 47 mg of ethyl 7-bromo-1-cyclopropyl-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate, and to this suspension were added 74 mg of 2-(p-toluenesulfonyl)-5-tributylstannylisoindoline and 1.5 mg of tetrakis(triphenylphosphine)palladium (0), after which the resulting mixture was heated under reflux for 18 hours under a nitrogen atmosphere. The reaction mixture was concentrated under reduced pressure, and the residue obtained was purified by a column chromatography (eluent: n-hexane:ethyl acetate=1:1), and diethyl ether was then added thereto, after which the crystals formed were collected by filtration, to obtain 27 mg of colorless, crystalline ethyl 1-cyclopropyl-6-fluoro-8-methyl-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate.

reactant | ethyl 7-bromo-1-cyclopropyl-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 47 mg | BrC1=C(C=C2C(C(=CN(C2=C1C)C1CC1)C(=O)OCC)=O)F | C16H15BrFNO3
reactant | 2-(p-toluenesulfonyl)-5-tributylstannylisoindoline | 74 mg | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=CC=C(C=C2C1)[Sn](CCCC)(CCCC)CCCC)C
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 1.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 1-cyclopropyl-6-fluoro-8-methyl-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)C=1C=C2CN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)F)=O)C(=O)OCC | C31H29FN2O5S
